US05744627
Methyl N-tert-butoxycarbonylaminomethylsalicylate (8.7 g, 30.9 mmoles) was dissolved in dry tetrahydrofuran (100 mL), and potassium trimethylsilanolate (4.4 g, 30.9 mmoles, 90% pure) was added. The yellow solution was refluxed for 24 hours, during which time a tan precipitate formed and the solvent turned light brown. The mixture was evaporated to dryness, and the solid was dissolved in cold water (100 mL). The brown solution was chilled in an ice bath, and saturated aqueous potassium hydrogen sulfate solution was used to titrate the stirred solution to pH 2-3. An off-white solid precipitated during the titration. The solid was filtered, washed with cold water, and dried in vacuo over potassium hydroxide to afford 6.7 g. (81% yield) of crude N-tert-butoxycarbonylaminomethylsalicylic acid (m.p. 141°-144° C., decomposes with effervescence on melting, opencapillary, uncorrected).

reactant | Methyl N-tert-butoxycarbonylaminomethylsalicylate | 30.9 mmoles, 8.7 g | C(C)(C)(C)OC(=O)NCOC=1C(C(=O)OC)=CC=CC1 | C14H19NO5
reactant | potassium trimethylsilanolate | 30.9 mmoles, 4.4 g | C[Si]([O-])(C)C.[K+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | N-tert-butoxycarbonylaminomethylsalicylic acid | 81% yield | C(C)(C)(C)OC(=O)NCOC=1C(C(=O)O)=CC=CC1 | C13H17NO5
